US08133909B2
(4-Chloro-3-methoxy-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine
In analogy to the procedure described for the synthesis example 71 (step 1), the title compound (4-chloro-3-methoxy-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine (MS m/e: 331.1 [M+H]+) was prepared from 5-bromo-2-chloro-anisol instead of 6-bromo-2,3-dihydro-benzofuran and 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine instead of 2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine.

reactant | 5-bromo-2-chloro-anisol | BrC=1C=CC(=C(C1)OC)Cl | C7H6BrClO
reactant | 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine | FC(C=1C=CC(=NC1)CCN)(F)F | C8H9F3N2
product | (4-chloro-3-methoxy-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine | ClC1=C(C=C(C=C1)NCCC1=NC=C(C=C1)C(F)(F)F)OC | C15H14ClF3N2O
